### PR TITLE
[Merged by Bors] - feat(SkewMonoidAlgebra): `coeff`, `single`, `one` and `sum`

### PR DESCRIPTION
**Pull request by xgenereux**
## feat : add definition of `coeff`, `single`, `one` and `sum`

In this PR, we introduce the notions of `coeff`, `single`, `one` and `sum` for skew monoid algebras.

## Context
This is the second part of a planned series of PRs aiming to formalise skew monoid algebras.
The PRs are split to ease the review process. The moral sum of these planned PRs is #10541 and the first part was #15878.

After this PR, the goal will then be to finally define a skewed convolution product on `SkewMonoidAlgebra k G`. Here, the product of two elements `f g : SkewMonoidAlgebra k G` is the finitely supported function whose value at `a` is the sum of `f x * (x • g y)` over all pairs `x, y` such that `x * y = a`.
(See #10541 at line 558 for an implementation.)

Co-authored-by: María Inés de Frutos Fernández <[mariaines.dff@gmail.com](mailto:mariaines.dff@gmail.com)>

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Algebra/SkewMonoidAlgebra/Basic.lean [hunk 1]
```diff
@@ -160,6 +153,269 @@ theorem support_eq_empty {p} : p.support = ∅ ↔ (p : SkewMonoidAlgebra k G) =
...
+
+theorem coeff_injective : Injective (coeff : SkewMonoidAlgebra k G → G → k) := by
+  rintro ⟨p⟩ ⟨q⟩
+  simp only [coeff, DFunLike.coe_fn_eq, imp_self, ofFinsupp.injEq]
+
+@[simp]
+theorem coeff_inj (p q : SkewMonoidAlgebra k G) : p.coeff = q.coeff ↔ p = q :=
+  coeff_injective.eq_iff
+
+theorem toFinsupp_apply (f : SkewMonoidAlgebra k G) (g) : f.toFinsupp g = f.coeff g := rfl
```
Comment (eric-wieser) [inline Mathlib/Algebra/SkewMonoidAlgebra/Basic.lean:173]:
```suggestion
@[simp]
theorem toFinsupp_apply (f : SkewMonoidAlgebra k G) (g) : f.toFinsupp g = f.coeff g := rfl
```
since `coeff` is the preferred spelling when working with `SkewMonoidAlgebra`

File: Mathlib/Algebra/SkewMonoidAlgebra/Basic.lean [hunk 2]
```diff
@@ -160,6 +153,269 @@ theorem support_eq_empty {p} : p.support = ∅ ↔ (p : SkewMonoidAlgebra k G) =
...
+def single (a : G) (b : k) : SkewMonoidAlgebra k G := ⟨Finsupp.single a b⟩
+
+@[simp]
+theorem toFinsupp_single (a : G) (b : k) : (single a b).toFinsupp = Finsupp.single a b := rfl
+
+@[simp]
+theorem ofFinsupp_single (a : G) (b : k) : ⟨Finsupp.single a b⟩ = single a b := rfl
+
+theorem coeff_single {a a' : G} {b : k} [Decidable (a = a')] :
+    coeff (single a b) a' = if a = a' then b else 0 := by
```
Comment (eric-wieser) [inline Mathlib/Algebra/SkewMonoidAlgebra/Basic.lean:224]: I think I'd slightly prefer the statement
```suggestion
theorem coeff_single {a : G} {b : k} [DecidableEq G] :
    coeff (single a b) = Pi.single a b := by
```
since there are lots of lemmas about `Pi.single`.

File: Mathlib/Algebra/SkewMonoidAlgebra/Basic.lean [hunk 3]
```diff
@@ -160,6 +153,269 @@ theorem support_eq_empty {p} : p.support = ∅ ↔ (p : SkewMonoidAlgebra k G) =
...
+
+theorem smul_single {S} [SMulZeroClass S k] (s : S) (a : G) (b : k) :
+    s • single a b = single a (s • b) :=
+  toFinsupp_injective <| by simp;
+
+theorem single_injective (a : G) : Function.Injective (single a : k → SkewMonoidAlgebra k G) :=
+  toFinsuppAddEquiv.symm.injective.comp (Finsupp.single_injective a)
+
+theorem _root_.IsSMulRegular.skewMonoidAlgebra_iff {S : Type*} [Monoid S] [DistribMulAction S k]
+    {a : S} [inst : Nonempty G]: IsSMulRegular k a ↔ IsSMulRegular (SkewMonoidAlgebra k G) a := by
```
Comment (eric-wieser) [inline Mathlib/Algebra/SkewMonoidAlgebra/Basic.lean:261]:
```suggestion
    {a : S} [Nonempty G] : IsSMulRegular k a ↔ IsSMulRegular (SkewMonoidAlgebra k G) a := by
```
then use `inhabit G` below and replace `Classical.choice inst` with `default`.

File: Mathlib/Algebra/SkewMonoidAlgebra/Basic.lean [hunk 4]
```diff
@@ -160,6 +153,269 @@ theorem support_eq_empty {p} : p.support = ∅ ↔ (p : SkewMonoidAlgebra k G) =
...
+
+end Single
+
+section One
+
+variable [One G] [One k]
+
+/-- The unit of the multiplication is `single 1 1`, i.e. the function that is `1` at `1` and
+  zero elsewhere. -/
+instance one : One (SkewMonoidAlgebra k G) := ⟨single 1 1⟩
```
Comment (eric-wieser) [inline Mathlib/Algebra/SkewMonoidAlgebra/Basic.lean:274]:
```suggestion
instance instOne : One (SkewMonoidAlgebra k G) := ⟨single 1 1⟩
```

File: Mathlib/Algebra/SkewMonoidAlgebra/Basic.lean [hunk 5]
```diff
@@ -160,6 +153,269 @@ theorem support_eq_empty {p} : p.support = ∅ ↔ (p : SkewMonoidAlgebra k G) =
...
+
+theorem ofFinsupp_one : (⟨Finsupp.single 1 1⟩ : SkewMonoidAlgebra k G) = 1 := rfl
+
+@[simp]
+theorem toFinsupp_one : (1 : SkewMonoidAlgebra k G).toFinsupp = Finsupp.single 1 1 := rfl
+
+@[simp]
+theorem toFinsupp_eq_one {a : SkewMonoidAlgebra k G} :
```
Comment (eric-wieser) [inline Mathlib/Algebra/SkewMonoidAlgebra/Basic.lean:282]:
```suggestion
theorem toFinsupp_eq_single_one_one_iff {a : SkewMonoidAlgebra k G} :
```

File: Mathlib/Algebra/SkewMonoidAlgebra/Basic.lean [hunk 6]
```diff
@@ -160,6 +153,269 @@ theorem support_eq_empty {p} : p.support = ∅ ↔ (p : SkewMonoidAlgebra k G) =
...
+end One
+
+section sum
+
+instance [DecidableEq G] [DecidableEq k] : DecidableEq (SkewMonoidAlgebra k G) :=
+  Equiv.decidableEq toFinsuppAddEquiv.toEquiv
+
+/-- `sum f g` is the sum of `g a (f.coeff a)` over the support of `f`. -/
+def sum {N : Type*} [AddCommMonoid N] (f : SkewMonoidAlgebra k G) (g : G → k → N) : N :=
+  ∑ a ∈ f.support, g a (f.coeff a)
```
Comment (eric-wieser) [inline Mathlib/Algebra/SkewMonoidAlgebra/Basic.lean:314]: I think `f.toFinsupp.sum` would be a more convenient definition. You can leave `sum_def` as currently written.

File: Mathlib/Algebra/SkewMonoidAlgebra/Basic.lean [hunk 7]
```diff
@@ -160,6 +153,269 @@ theorem support_eq_empty {p} : p.support = ∅ ↔ (p : SkewMonoidAlgebra k G) =
...
+  exact Finsupp.sum_add_index h_zero h_add
+
+/-- η-reduced variant of `sum_add`. -/
+@[simp]
+theorem sum_add' {S : Type*} [AddCommMonoid S] (p : SkewMonoidAlgebra k G) (f g : G → k → S) :
+    p.sum (f + g) = p.sum f + p.sum g := Finsupp.sum_add
+
+@[simp]
+theorem sum_add {S : Type*} [AddCommMonoid S] (p : SkewMonoidAlgebra k G) (f g : G → k → S) :
+    (p.sum fun n x => f n x + g n x) = p.sum f + p.sum g := sum_add' _ _ _
```
Comment (eric-wieser) [inline Mathlib/Algebra/SkewMonoidAlgebra/Basic.lean:371]: Do we have these two versions for `Finsupp`? I think we should be consistent here.

File: Mathlib/Algebra/SkewMonoidAlgebra/Basic.lean (hunk 2 above)
Comment (Louddy) [reply Mathlib/Algebra/SkewMonoidAlgebra/Basic.lean:225]: The lemma follows [`Finsupp.single_apply`](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Data/Finsupp/Defs.html#Finsupp.single_apply) and [`MonoidAlgebra.single_apply`](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Algebra/MonoidAlgebra/Defs.html#MonoidAlgebra.single_apply). `Finsupp` also has [`Finsupp.single_eq_pi_single`](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Data/Finsupp/Defs.html#Finsupp.single_eq_pi_single), maybe it should just be added instead of replacing `coeff_single`?

File: Mathlib/Algebra/SkewMonoidAlgebra/Basic.lean [hunk 8]
```diff
@@ -160,6 +153,266 @@ theorem support_eq_empty {p} : p.support = ∅ ↔ (p : SkewMonoidAlgebra k G) =
...
+    (h_zero : h a 0 = 0) : (SkewMonoidAlgebra.single a b).sum h = h a b :=
+  Finsupp.sum_single_index h_zero
+
+theorem map_sum {N P : Type*} [AddCommMonoid N] [AddCommMonoid P] {H : Type*} [FunLike H N P]
+    [AddMonoidHomClass H N P] (h : H) (f : SkewMonoidAlgebra k G) (g : G → k → N) :
+    h (sum f g) = sum f fun (a : G) (b : k) => h (g a b) :=
+  _root_.map_sum h _ _
+
+theorem toFinsupp_sum {N : Type*} [AddCommMonoid N] (f : SkewMonoidAlgebra k G) (g : G → k → N) :
+    sum f g = Finsupp.sum f.toFinsupp g := rfl
```
Comment (alreadydone) [inline Mathlib/Algebra/SkewMonoidAlgebra/Basic.lean:332]: Should the two sides be swapped?

File: Mathlib/Algebra/SkewMonoidAlgebra/Basic.lean [hunk 9]
```diff
@@ -160,6 +153,266 @@ theorem support_eq_empty {p} : p.support = ∅ ↔ (p : SkewMonoidAlgebra k G) =
...
+
+/-- Variant where the image of `g` is a `SkewMonoidAlgebra`. -/
+theorem toFinsupp_sum' {k' G' : Type*} [AddCommMonoid k'] (f : SkewMonoidAlgebra k G)
+    (g : G → k → SkewMonoidAlgebra k' G') :
+    (sum f g).toFinsupp = Finsupp.sum f.toFinsupp (fun (a : G) (b : k) ↦ (g a b).toFinsupp) :=
```
Comment (alreadydone) [inline Mathlib/Algebra/SkewMonoidAlgebra/Basic.lean:337]: I think you can feel free to omit the type annotations:
```suggestion
    (sum f g).toFinsupp = Finsupp.sum f.toFinsupp (fun a b ↦ (g a b).toFinsupp) :=
```
I might actually write `(toFinsupp <| g · ·)`.

File: Mathlib/Algebra/SkewMonoidAlgebra/Basic.lean [hunk 10]
```diff
@@ -160,6 +153,266 @@ theorem support_eq_empty {p} : p.support = ∅ ↔ (p : SkewMonoidAlgebra k G) =
...
+  _root_.map_sum toFinsuppAddEquiv (fun (a : G) => g a (f.coeff a)) f.toFinsupp.support
+
+theorem ofFinsupp_sum {k' G' : Type*} [AddCommMonoid k'] (f : G →₀ k)
+    (g : G → k → G' →₀ k'):
+    (⟨Finsupp.sum f g⟩ : SkewMonoidAlgebra k' G') = sum ⟨f⟩ (fun (a : G) (b : k) ↦ ⟨(g a b)⟩) := by
```
Comment (alreadydone) [inline Mathlib/Algebra/SkewMonoidAlgebra/Basic.lean:342]:
```suggestion
    (⟨Finsupp.sum f g⟩ : SkewMonoidAlgebra k' G') = sum ⟨f⟩ (⟨g · ·⟩) := by
```
(untested)

File: Mathlib/Algebra/SkewMonoidAlgebra/Basic.lean [hunk 11]
```diff
@@ -160,6 +153,266 @@ theorem support_eq_empty {p} : p.support = ∅ ↔ (p : SkewMonoidAlgebra k G) =
...
+theorem sum_add_index {S : Type*} [DecidableEq G] [AddCommMonoid S]
+    {f g : SkewMonoidAlgebra k G} {h : G → k → S} (h_zero : ∀ a ∈ f.support ∪ g.support, h a 0 = 0)
+    (h_add : ∀ a ∈ f.support ∪ g.support, ∀ (b₁ b₂ : k), h a (b₁ + b₂) = h a b₁ + h a b₂) :
+    (f + g).sum h = f.sum h + g.sum h := by
+  rw [show f + g = ⟨f.toFinsupp + g.toFinsupp⟩ by rw [ofFinsupp_add, eta]]
+  exact Finsupp.sum_add_index h_zero h_add
+
+@[simp]
+theorem sum_add {S : Type*} [AddCommMonoid S] (p : SkewMonoidAlgebra k G) (f g : G → k → S) :
+    (p.sum fun n x => f n x + g n x) = p.sum f + p.sum g := Finsupp.sum_add
```
Comment (alreadydone) [inline Mathlib/Algebra/SkewMonoidAlgebra/Basic.lean:368]: Please use `↦` in new code added to mathlib (also below). You are using `↦` earlier in the file; maybe here you copied some old code and forgot to change it?
```suggestion
    (p.sum fun n x ↦ f n x + g n x) = p.sum f + p.sum g := Finsupp.sum_add
```

File: Mathlib/Algebra/SkewMonoidAlgebra/Basic.lean [hunk 12]
```diff
@@ -160,6 +153,266 @@ theorem support_eq_empty {p} : p.support = ∅ ↔ (p : SkewMonoidAlgebra k G) =
...
+theorem sum_ite_eq' {N : Type*} [AddCommMonoid N] [DecidableEq G] (f : SkewMonoidAlgebra k G)
+    (a : G) (b : G → k → N) : (f.sum fun (x : G) (v : k) => if x = a then b x v else 0) =
+      if a ∈ f.support then b a (f.coeff a) else 0 := by
+  simp only [sum_def, Finsupp.sum, f.toFinsupp.support.sum_ite_eq', support]
+
+theorem smul_sum {M : Type*} {R : Type*} [AddCommMonoid M] [DistribSMul R M]
+    {v : SkewMonoidAlgebra k G} {c : R} {h : G → k → M} :
+    c • v.sum h = v.sum fun a b => c • h a b := Finset.smul_sum
+
+theorem sum_congr {f : SkewMonoidAlgebra k G} {M : Type*} [AddCommMonoid M] {g1 g2 : G → k → M}
```
Comment (alreadydone) [inline Mathlib/Algebra/SkewMonoidAlgebra/Basic.lean:410]: I think it's more idiomatic to use subscripts:
```suggestion
theorem sum_congr {f : SkewMonoidAlgebra k G} {M : Type*} [AddCommMonoid M] {g₁ g₂ : G → k → M}
```

**Review by alreadydone — APPROVED** [review]
Thanks, LGTM!

However I'm puzzled by this comment:
> The associativity of the skewed multiplication depends on the `[MulSemiringAction G k]` instance.
In particular, this means that unlike in `Mathlib.Algebra.MonoidAlgebra.Basic`, `G` will
need to be a monoid for most of our uses.

because for MonoidAlgebra it's also the case that associativity depends on `G` being a ~~monoid~~. (Actually, a semigroup suffices; is this what you worry about? If we introduce a "SemigroupSemiringAction" (see [Zulip discussion](https://leanprover.zulipchat.com/#narrow/channel/287929-mathlib4/topic/two-sided.20ideals/near/482454265) for nonunital actions) we could then restore the generality.) Since this PR doesn't actually define the multiplication, maybe remove this paragraph?
By the way, have you considered redefining MonoidAlgebra using SkewMonoidAlgebra with the trivial action of G on k (sending every element of k to itself)?

File: Mathlib/Algebra/SkewMonoidAlgebra/Basic.lean (hunk 2 above)
Comment (kbuzzard) [reply Mathlib/Algebra/SkewMonoidAlgebra/Basic.lean:225]: Why not call Xavier's version `coeff_single_apply` and let `coeff_single` be Eric's version?

File: Mathlib/Algebra/SkewMonoidAlgebra/Basic.lean (hunk 8 above)
Comment (Louddy) [reply Mathlib/Algebra/SkewMonoidAlgebra/Basic.lean]: I have renamed the lemma to `sum_def` as it is indeed more fitting.
Thanks!

**Comment by Louddy** [comment]
> Thanks, LGTM!
> 
> However I'm puzzled by this comment:
> 
> > The associativity of the skewed multiplication depends on the `[MulSemiringAction G k]` instance.
> > In particular, this means that unlike in `Mathlib.Algebra.MonoidAlgebra.Basic`, `G` will
> > need to be a monoid for most of our uses.
> 
> because for MonoidAlgebra it's also the case that associativity depends on `G` being a ~monoid~. (Actually, a semigroup suffices; is this what you worry about? If we introduce a "SemigroupSemiringAction" (see [Zulip discussion](https://leanprover.zulipchat.com/#narrow/channel/287929-mathlib4/topic/two-sided.20ideals/near/482454265) for nonunital actions) we could then restore the generality.) Since this PR doesn't actually define the multiplication, maybe remove this paragraph? By the way, have you considered redefining MonoidAlgebra using SkewMonoidAlgebra with the trivial action of G on k (sending every element of k to itself)?

Indeed the comment does not make sense for this PR, I have removed it.

As for your other comment, `MonoidAlgebra` is currently being refactored by other people. I do not know, however, if the plan is to use `SkewMonoidAlgebra`. For now, the objective is only to have a `SkewMonoidAlgebra` on Mathlib.

**Comment by alreadydone** [comment]
> Indeed the comment does not make sense for this PR, I have removed it.

Please remove it from the [commit message](https://github.com/leanprover-community/mathlib4/pull/19084#issue-2661920480) too, and merge master to get rid of the `messageFile.md`. Thanks!

maintainer delegate

File: Mathlib/Algebra/SkewMonoidAlgebra/Basic.lean [hunk 13]
```diff
@@ -4,25 +4,18 @@ Released under Apache 2.0 license as described in the file LICENSE.
...
 # Skew monoid algebras
 
 This file presents a skewed version of `Mathlib.Algebra.MonoidAlgebra.Basic` with an
-irreducible definition.
+irreducible definition. The definition is separated from `Finsupp` by wrapping it with a structure.
 
-The definition is separated from `Finsupp` by wrapping it with a structure.
-For https://github.com/leanprover-community/mathlib4/pull/15878, the goal is only to get this separation right. This means that
-most of what makes these objects skewed is currently missing from this PR.
+In this PR, we introduce the notions of `coeff`, `single`, `one` and `sum` for skew monoid algebras.
```
Comment (kbuzzard) [inline Mathlib/Algebra/SkewMonoidAlgebra/Basic.lean:15]: A module doc should not be talking about what is happening in "this PR". This text is what will be displayed in the API docs [here](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Algebra/SkewMonoidAlgebra/Basic.html#Skew-monoid-algebras), and "this PR" is meaningless there. Take a look at the community's [conventions on module docs](https://leanprover-community.github.io/contribute/doc.html#header-comment) to see what this part of your file should look like. There should at least be a `Main definitions` section by now, covering your new definition. I personally would like to see a description of what is going on this file which is readable by a mathematician who doesn't know anything at all about Lean (who therefore does not know what "skewed version of `Mathlib.Algebra.MonoidAlgebra.Basic`" means or what `Finsupp` means).

Comment (Louddy) [reply Mathlib/Algebra/SkewMonoidAlgebra/Basic.lean]: Thank you for your comment.

I have updated the header.
